US04608383
3. 1-(4-Benzyloxyphenoxy)-3-[3-(2,6-dimethylphenylamino)-propylamino]-propan-2-ol
4.23 g. 4-Benzyloxyphenyl glycidyl ether, 5.9 g. N-(2,6-dimethylphenyl)-1,3-diaminopropane and 5 ml. isopropyl alcohol are stirred for 24 hours at ambient temperature. The reaction mixture is worked up by chromatography on silica gel.

reactant | 4-Benzyloxyphenyl glycidyl ether | C(C1CO1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H16O3
reactant | N-(2,6-dimethylphenyl)-1,3-diaminopropane | CC1=C(C(=CC=C1)C)NCCCN | C11H18N2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-(4-Benzyloxyphenoxy)-3-[3-(2,6-dimethylphenylamino)-propylamino]-propan-2-ol | C(C1=CC=CC=C1)OC1=CC=C(OCC(CNCCCNC2=C(C=CC=C2C)C)O)C=C1 | C27H34N2O3
